US05932601
A mixture of ethyl 6-(4-benzyloxy-3-methoxyphenyl)-2-hydroxyhexanoate (15.22 g), potassium cyanate (KCNO) (13.26 g) and butanol (180 ml) was stirred for 72 hours under reflux. The reaction mixture was concentrated under reduced pressure. The residue was poured into water, which was acidified with 2N HCl, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), followed by distilling off the solvent. The residual oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:1, v/v), was obtained 5-[4-(4-benzyloxy-3-methoxyphenyl)butyl]-2,4-oxazolidinedione (11.22 g, 74%), which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.92-93° C.

reactant | ethyl 6-(4-benzyloxy-3-methoxyphenyl)-2-hydroxyhexanoate | 15.22 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCCC(C(=O)OCC)O)OC | C22H28O5
reactant | potassium cyanate | 13.26 g | [O-]C#N.[K+]
solvent | butanol | 180 ml | C(CCC)O | C4H10O
product | 5-[4-(4-benzyloxy-3-methoxyphenyl)butyl]-2,4-oxazolidinedione | 11.22 g, 74% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCCC1C(NC(O1)=O)=O)OC | C21H23NO5
